US09353096B2
(R)-6-(4-Fluoro-3-(trifluoromethyl)phenyl)morpholin-3-one (486 mg, 1.85 mmol) was dissolved in 2 mL of THF and 10 mL of ether. To this solution under ice bath was added powder LiAlH4 (72 mg, 1.85 mmol). The mixture was stirred at 0° C. for 1 h and then at room temperature overnight. LC/MS indicated only the starting material. To this mixture was added LiAlH4 (1M) in THF (2 mL, 2 mmol) under ice bath. The mixture was stirred at room temperature for 15 h. LC/MS indicated complete consumption of the starting material and the formation of the desired MW (250, M+1). Under ice bath, 2.5 mL of water was added and the mixture was stirred for 30 min. The top solution was decanted and concentrated. The slurry residue was treated with methylene chloride and water. The organic layer was combined with the dichloromethane solution from the decanted top solution, washed and dried. Solvents were evaporated to give (R)-2-(4-fluoro-3-(trifluoromethyl)phenyl)morpholine as a pale green oil (460 mg). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 2.74 (dd, J=12.13, 10.36 Hz, 1H) 2.86-2.96 (m, 1H) 2.96-3.03 (m, 1H) 3.08 (dd, J=12.38, 2.53 Hz, 1H) 3.80 (td, J=11.37, 3.03 Hz, 1H) 4.06 (dd, J=11.37, 3.03 Hz, 1H) 4.52 (dd, J=10.36, 2.53 Hz, 1H) 7.14-7.23 (m, 1H) 7.50-7.58 (m, 1H) 7.64 (dd, J=6.69, 2.15 Hz, 1H).

reactant | (R)-6-(4-Fluoro-3-(trifluoromethyl)phenyl)morpholin-3-one | 1.85 mmol, 486 mg | FC1=C(C=C(C=C1)[C@H]1OCC(NC1)=O)C(F)(F)F | C11H9F4NO2
reactant | LiAlH4 | 1.85 mmol, 72 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | LiAlH4 | 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ether | 10 mL | CCOCC | C4H10O
solvent | THF | 2 mmol, 2 mL | C1CCOC1 | C4H8O
product | (R)-2-(4-fluoro-3-(trifluoromethyl)phenyl)morpholine | 460 mg | FC1=C(C=C(C=C1)[C@@H]1CNCCO1)C(F)(F)F | C11H11F4NO
